US04133809
29.7 g of 7-nitro-5-phenyl-1-H-1,5-benzodiazepine-2,4-dione in 200 ml ethanol containing 1.0 g of Raney nickel is hydrogenated at room temperature at an initial hydrogen pressure of 50 p.s.i. The reaction is stopped after 0.3 moles of hydrogen has been absorbed. The reaction mixture is filtered and the filtrate evaporated to give 7-amino-5-phenyl-3H-1,5-benzodiazepine-2,4-dione.

reactant | 7-nitro-5-phenyl-1-H-1,5-benzodiazepine-2,4-dione | 29.7 g | [N+](=O)([O-])C1=CC2=C(NC(CC(N2C2=CC=CC=C2)=O)=O)C=C1 | C15H11N3O4
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.3 moles | [H][H] | H2
solvent | ethanol | 200 ml, 1.0 g | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 7-amino-5-phenyl-3H-1,5-benzodiazepine-2,4-dione | NC1=CC2=C(NC(CC(N2C2=CC=CC=C2)=O)=O)C=C1 | C15H13N3O2
